US04399135
A solution of the E form of the syn isomer of 2-benzhydryloxycarbonyl-3-(2-dimethylaminovinyl)-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-oxa-1-azabicyclo[4.2.0]oct-2-ene (1.05 g) in ethyl acetate (10 cc) is stirred vigorously for 1 hour at 20° C., in the presence of a 1 N solution of hydrochloric acid (5 cc). The mixture is separated by decantation and the organic phase is washed with a saturated solution of sodium bicarbonate (10 cc), distilled water (10 cc) and a saturated solution of sodium chloride (10 cc). The ethyl acetate phase is dried over anhydrous magnesium sulphate and filtered and the filtrate is concentrated to dryness at 30° C. under reduced pressure (20 mm Hg; 2.7 kPa). This yields the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-8-oxo-3-(2-oxoethyl)-5-oxa-1-azabicyclo[4.2.0]oct-2-ene (1.00 g) in the form of a hard yellow foam.

reactant | 2-benzhydryloxycarbonyl-3-(2-dimethylaminovinyl)-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-oxa-1-azabicyclo[4.2.0]oct-2-ene | 1.05 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2OCC1C=CN(C)C)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C49H44N6O6S
reactant | hydrochloric acid | 5 cc | Cl | ClH
reactant | ethyl acetate | 10 cc | C(C)(=O)OCC | C4H8O2
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-8-oxo-3-(2-oxoethyl)-5-oxa-1-azabicyclo[4.2.0]oct-2-ene | 1.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2OCC1CC=O)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C47H39N5O7S
